US09447106B2
To a solution of 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide (200 mg, 0.40 mmol) in CH3OH (5 mL) was added hydrazine hydrate (1 mL, 80% of aqueous solution). The mixture was stirred at 70° C. under N2 for 4 hr, concentrated and purified by chromatography column on 5 g of silica gel eluting with DCM/CH3OH to afford 63 mg (43%) of 6-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide as colorless oil. MS (ESI) m/e [M+1]+ 363.9.

reactant | 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.40 mmol, 200 mg | O=C1N(C(C2=CC=CC=C12)=O)CC1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C28H23N5O4
reactant | hydrazine hydrate | 1 mL | O.NN
solvent | CH3OH | 5 mL | CO | CH4O
product | 6-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 63 mg, 43% | NCC1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H21N5O2
